US04292317
2.55 g (0.01 mol) of 7-chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 4.5 cm3 of 1-methylpiperazine (0.011 mol) and 32 cm3 of DMSO were heated at 110° C. for 4 hours. After cooling, the mixture was taken up in 150 cm3 of water. The crystalline precipitate was filtered off, washed and recrystallised from 100 cm3 of methylcellosolve. 1.3 g of 6-fluoro-1-methyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, m.p. 304° C. (decomposition), were obtained.

reactant | 7-chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.01 mol, 2.55 g | ClC1=C(C=C2C(C(=CN(C2=C1)C)C(=O)O)=O)F | C11H7ClFNO3
reactant | 1-methylpiperazine | 0.011 mol, 4.5 cm3 | CN1CCNCC1 | C5H12N2
reactant | DMSO | 32 cm3 | CS(=O)C | C2H6OS
solvent | water | 150 cm3 | O | H2O
product | 6-fluoro-1-methyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.3 g | FC=1C=C2C(C(=CN(C2=CC1N1CCN(CC1)C)C)C(=O)O)=O | C16H18FN3O3
